US04594347
8,9-Difluoro-2-methyl-7-nitro-6-oxo-1,2-dihyro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (6 g) is dissolved in dimethylformamide (300 ml) and thereto is added 20% palladium-carbon catalyst (0.5 g), and the mixture is subjected to a catalytic reduction under a pressure of 5 kg/cm2. After the reaction, the cartalyst is filtered off and further dimethylformamide is distilled off, and to the residue is added ethanol. The resulting precipited crystals are separated by filtration and recrystallized from dimethylformamide to give 8,9-difluoro-2-methyl-7-amino-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (2.7 g) as yellow cubic crystals. m.p. 270°-274° C. (decomp.)

reactant | 8,9-Difluoro-2-methyl-7-nitro-6-oxo-1,2-dihyro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 6 g | FC=1C(=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O)[N+](=O)[O-] | C13H8F2N2O5
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
product | 8,9-difluoro-2-methyl-7-amino-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 2.7 g | FC=1C(=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O)N | C13H10F2N2O3
